* Educational capacitor roles for VREF (ideal C; Level-1 discovery)
* Shared by netlists via:  .include ../models/cap.lib
*
* Role subcircuits (prefer these over bare C* when documenting intent):
*
*   cap_out     Cout — VREF / load decoupling (p→n typically vref→0)
*   cap_comp    Cc  — miller / mid-node compensation (e.g. vx→vref)
*   cap_bypass  supply or bias-node bypass
*
* Technology tags (same ideal C; name encodes foundry intent only):
*
*   cap_mim     MIM-style dense film cap
*   cap_mom     MOM / fringe metal cap
*
* Instantiate with size override, e.g.:
*   Xcout vref 0   cap_out  c={Cout}
*   Xcc   vx   vref cap_comp c={Cc}
*   Xdec  vdd  0   cap_bypass c=10p
*
* Defaults match typical scm_cout / 2t_cout educational decks (Cout=200p, Cc=2p).

.subckt cap_out p n params: c=200p
C1 p n {c}
.ends cap_out

.subckt cap_comp p n params: c=2p
C1 p n {c}
.ends cap_comp

.subckt cap_bypass p n params: c=10p
C1 p n {c}
.ends cap_bypass

.subckt cap_mim p n params: c=200p
C1 p n {c}
.ends cap_mim

.subckt cap_mom p n params: c=2p
C1 p n {c}
.ends cap_mom
